US06225311B1
According to the procedure of Step 2 of Example 248, Mitsunobu coupling of 0.345 g (1.0 mmol) of 4-(4-hydroxy-benzenesulfonyl}2,2-dimethyl-thiomorpholine-3-carboxylic acid methyl ester and 0.159 g (1.2 mmol) of 3-phenyl-2-propyn-1-ol provided 0.254 g (55%) of methyl (3S)-2,2-dimethyl4-({4-[(3-phenyl-2-propynyl)-oxy]phenyl)sulfonyl)-3- thiomorpholine carboxylate as a pale yellow solid. Electrospray Mass Spec: 460.1(M+H)+

reactant | 4-(4-hydroxy-benzenesulfonyl}2,2-dimethyl-thiomorpholine-3-carboxylic acid methyl ester | 1.0 mmol, 0.345 g | COC(=O)C1N(CCSC1(C)C)S(=O)(=O)C1=CC=C(C=C1)O | C14H19NO5S2
reactant | 3-phenyl-2-propyn-1-ol | 1.2 mmol, 0.159 g | C1(=CC=CC=C1)C#CCO | C9H8O
product | methyl (3S)-2,2-dimethyl4-({4-[(3-phenyl-2-propynyl)-oxy]phenyl)sulfonyl)-3- thiomorpholine carboxylate | 0.254 g, 55% | CC1([C@@H](N(CCS1)S(=O)(=O)C1=CC=C(C=C1)OCC#CC1=CC=CC=C1)C(=O)OC)C | C23H25NO5S2
